US08859774B2
To a solution of phenylmethanethiol (356 μl, 3.03 mmol) and 2-fluoro-4-(trifluoromethyl)pyridine (369 μl, 3.03 mmol) in dimethylformamide (5 mL) was added potassium carbonate (628 mg, 4.54 mmol). The reaction mixture was stirred at 60° C. for 2 hours, then cooled to room temperature, water (10 mL) was added, and the mixture was extracted with ethyl acetate (3×15 mL). The combined organic layers were washed with saturated aqueous sodium hydrogen carbonate solution (20 mL), brine (20 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to give a pale yellow oil. The crude product was purified by chromatography on silica gel (gradient: 0-20% ethyl acetate in isohexane) to afford 2-(benzylthio)-4-(trifluoromethyl)pyridine (510 mg) as a colourless oil. LCMS (Method F, ES-API): RT 3.04 min, m+H=270.1.

reactant | phenylmethanethiol | 3.03 mmol, 356 μl | C1(=CC=CC=C1)CS | C7H8S
reactant | 2-fluoro-4-(trifluoromethyl)pyridine | 3.03 mmol, 369 μl | FC1=NC=CC(=C1)C(F)(F)F | C6H3F4N
reactant | potassium carbonate | 4.54 mmol, 628 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 mL | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-(benzylthio)-4-(trifluoromethyl)pyridine | 510 mg | C(C1=CC=CC=C1)SC1=NC=CC(=C1)C(F)(F)F | C13H10F3NS
